### PR TITLE
Prove progress

### PR DESCRIPTION
**Pull request by Daoortor**

### CODE REVIEW

File: LocalLang/TypingLemmas.lean [hunk 1]
```diff
@@ -0,0 +1,34 @@
+import Mathlib.Tactic.Lemma
+import LocalLang.Typing
+
+def Env.extendsTypeContext (V : Env) (Γ : TypeContext) : Prop :=
```
Comment (jesyspa) [inline LocalLang/TypingLemmas.lean]: I'm not sure what you mean by `extends` here.

File: LocalLang/TypingGuarantees.lean [hunk 2]
```diff
@@ -2,17 +2,198 @@ import LocalLang.AST
...
+  ∃ Γ₀ ty₀, (ctx.updateEnv V).extendsTypeContext Γ₀ ∧ Expr.TypeJdg Γ₀ e₀ ty₀ := by
+  intro e_jdg V_ext_Γ fill_eq
+  induction ctx generalizing Γ V e e₀ ty <;> (
+    rw [fill_eq, Ctx.fill] at e_jdg
+    rw [Ctx.fill] at fill_eq
+  )
+  case hole => exists Γ, ty
+  all_goals (
+    cases e_jdg
+    rename ∀ _ {_ e₀ : Expr} _ _, _ → _ → _ → ∃ Γ₀ ty₀, _ ∧ Expr.TypeJdg Γ₀ e₀ ty₀ => ih
```
Comment (jesyspa) [inline LocalLang/TypingGuarantees.lean]: This looks very brittle, is there no better way to capture it?

File: LocalLang/TypingGuarantees.lean [hunk 3]
```diff
@@ -2,17 +2,198 @@ import LocalLang.AST
...
+    exists .value v
+    constructor
+    assumption
+  | binOp =>
+    cases e_jdg with
+    | jdg_binOp e₁_jdg e₂_jdg =>
+      rename_i v₁ v₂ op
+      cases e₁_jdg
+      cases e₂_jdg
+      rename_i v₁_jdg v₂_jdg
```
Comment (jesyspa) [inline LocalLang/TypingGuarantees.lean]: Can you avoid these renames by using `rcases ... with`?

File: LocalLang/TypingGuarantees.lean [hunk 4]
```diff
@@ -2,17 +2,198 @@ import LocalLang.AST
...
+
+inductive IsRedex : Expr → Prop where
+  | const : IsRedex (.const n)
+  | var : IsRedex (.var x)
+  | binOp {op} : IsRedex (.binOp op (.value v₁) (.value v₂))
+  | letInConst : IsRedex (.letIn x (.value v₁) (.value v₂))
+  | funCall {es} : IsRedex (.funCall (.value v) es)
+
+inductive HasDecomposition : Expr → Prop where
+  | decomposition (e' : Expr) (ctx : Ctx) : e = ctx.fill e' → IsRedex e' → HasDecomposition e
```
Comment (jesyspa) [inline LocalLang/TypingGuarantees.lean:150]: By the way, if you find yourself pattern matching on this in inconvenient ways, you may want to make it a structure instead.

File: LocalLang/TypingGuarantees.lean [hunk 5]
```diff
@@ -2,17 +2,198 @@ import LocalLang.AST
...
+      let ⟨e', ctx, fill_eq, e'_redex⟩ := f_dec
+      apply HasDecomposition.decomposition e' (.funCallBody ctx es) (by simp [fill_eq])
+      assumption
+
+lemma redex_progress : ∀ {Γ e ty}, Expr.TypeJdg Γ e ty → IsRedex e →
+  Env.extendsTypeContext V Γ → ∃ e', HeadSmallStep V e e' := by
+  intro Γ e ty e_jdg e_redex V_resp_Γ
+  cases e_redex with
+  | const =>
+    rename_i n
```
Comment (jesyspa) [inline LocalLang/TypingGuarantees.lean]: Can these renames not be part of the line above?

**Review by jesyspa — CHANGES_REQUESTED** [review]
Some thoughts

**Review by ozzush — APPROVED** [review]

File: LocalLang/TypingLemmas.lean [hunk 6]
```diff
@@ -0,0 +1,35 @@
...
+    simp only [x_eq_x', if_true] at x'_in_Γ'
+    injection x'_in_Γ' with ty_eq
+    exists v
+    constructor
+    · rfl
+    · rw [← ty_eq]
+      assumption
+  · rename_i x_neq_x'
+    apply V_resp_Γ
+    simp only [x_neq_x'] at x'_in_Γ'
```
Comment (jesyspa) [inline LocalLang/TypingLemmas.lean:24]: simpa?

File: LocalLang/TypingLemmas.lean [hunk 7]
```diff
@@ -0,0 +1,35 @@
...
+  rw [Std.HashMap.getElem?_insert] at *
+  split
+  · rename_i x_eq_x'
+    simp only [x_eq_x', if_true] at x'_in_Γ'
+    injection x'_in_Γ' with ty_eq
+    exists v
+    constructor
+    · rfl
+    · rw [← ty_eq]
+      assumption
```
Comment (jesyspa) [inline LocalLang/TypingLemmas.lean:21]: rwa?

**Review by jesyspa — APPROVED** [review]
